US08124641B2
To a solution of (R)-{[4-(3,5-bis-trifluoromethyl-benzenesulfonylamino)-4,5,6,7-tetrahydro-indazol-1-yl]-acetic acid ethyl ester (example 1-5, prepared by the method analogous to the one described for example 1-1, 48.6 mg, 0.100 mmol) in acetonitrile (3 mL) was added potassium carbonate (27.6 mg, 0.200 mmol) and methyl iodide (9.5 μL, 0.150 mmol). After being heated at 70° C. under an argon atmosphere for 6 hours, the reaction mixture was cooled to room temperature, filtered through a glass funnel and concentrated in vacuo. The residue was purified by column chromatography (gradient elution, 0-5% methanol in dichloro-methane) to afford {(R)-4-[(3,5-bis-trifluoromethyl-benzenesulfonyl)-methyl-amino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester (42.6 mg, 83%) as a white solid. MS cald. (calculated) for C20H21F6N3O4S 513, obsd. (observed) (ESI+) [(M+H)+] 514.

reactant | [4-(3,5-bis-trifluoromethyl-benzenesulfonylamino)-4,5,6,7-tetrahydro-indazol-1-yl]-acetic acid ethyl ester | C(C)OC(CN1N=CC=2C(CCCC12)NS(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C19H19F6N3O4S
reactant | potassium carbonate | 0.200 mmol, 27.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.150 mmol, 9.5 μL | CI | CH3I
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | {(R)-4-[(3,5-bis-trifluoromethyl-benzenesulfonyl)-methyl-amino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester | 42.6 mg, 83% | C(C)OC(CN1N=CC=2[C@@H](CCCC12)N(C)S(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C20H21F6N3O4S
